US07723330B2
Step C: Preparation of N-(3-fluoro-4-(3-(hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
A round-bottomed flask was charged with tert-butyl 5-(1-(4-methoxybenzyl)-4-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido)phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)-hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate (42.5 mg, 0.0537 mmol), 2,2,2-trifluoroacetic acid (123 mg, 1.07 mmol) and CH2Cl2 (10 mL). The reaction mixture was stirred at ambient temperature for 4 hours. The solvent was removed and the residue was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 50/1 to 10/1, v/v) to give product (13.8 mg, 37.2%). LRMS (APCI neg): m/e 690 (M).

reactant | tert-butyl 5-(1-(4-methoxybenzyl)-4-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido)phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)-hexahydropyrrolo[3,4-c]pyrrole-2(1H)-carboxylate | 0.0537 mmol, 42.5 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C3=CC=NN(C3=O)C3=CC=C(C=C3)F)F)N3CC2C(C3)CN(C2)C(=O)OC(C)(C)C)C=C1 | C42H40F2N8O6
reactant | 2,2,2-trifluoroacetic acid | 1.07 mmol, 123 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(3-fluoro-4-(3-(hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 13.8 mg, 37.2% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)N(N=C2N2CC1CNCC1C2)CC2=CC=C(C=C2)OC)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O | C37H32F2N8O4
